US07678801B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methyl-N-(2-methylpropyl)benzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzoic acid (26 mg, 0.05 mmol) in DMF (0.5 mL) were added HBTU (28 mg, 0.075 mmol), triethylamine (21.1 uL, 0.15 mmol) and isobutylamine (110.0 uL, 0.11 mmol). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (12.6 mg, 44%). LC-MS m/z 577 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzoic acid | 0.05 mmol, 26 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C(=C(C(=O)O)C=CC2)C)CC | C28H29F2N5O3
reactant | HBTU | 0.075 mmol, 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.15 mmol, 21.1 uL | C(C)N(CC)CC | C6H15N
reactant | isobutylamine | 0.11 mmol, 110.0 uL | C(C(C)C)N | C4H11N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methyl-N-(2-methylpropyl)benzamide | 12.6 mg, 44% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C(=C(C(=O)NCC(C)C)C=CC2)C)CC | C32H38F2N6O2
